* a dangling event node with no case variant is not diagnosed
* The false-positive guard for EVTnode_case_check()
* (src/xspice/evt/evttermi.c).  'undriven' is an event node that nothing
* drives, which is the same state the reader half of
* event-node-case-split.cir ends in, and 'dig' is an event node that nothing
* reads.  Neither has a name differing only in case from another event node,
* so neither is a resolution miss: an event node mentioned once is a legal
* dangling node exactly as a node mentioned once is a legal floating node in
* the analog world, and decision 2 of
* doc/claude/decisions/0001-distinguish.md diagnoses only the failed lookup
* that has a case variant behind it.  Verified by hand under
* casemode=distinguish: stderr carries the experimental-mode warning and
* nothing else.
* check.sh's filter drops every 'Warning' line, so that absence is not
* asserted here - it is asserted by event-node-case-report.cir's NOTWIN case,
* which sources this same circuit under a '>&' redirect and reads the capture
* back (doc/codex/issues/0036).
* What this deck pins is that the number for a dangling event
* node is the same 0.0 as in event-node-case-split.cir, so the split deck's
* value is evidence about the case of the name and not about danglingness.
V1 in 0 dc 1
R0 in 0 1meg
A1 [in] [dig] adc1
.model adc1 adc_bridge(in_low=0.4 in_high=0.6)
A2 undriven outq dbuf
.model dbuf d_buffer
A3 [outq] [aout] dac1
.model dac1 dac_bridge(out_low=0.0 out_high=5.0 out_undef=2.5)
R1 aout 0 1k
.OPTIONS noacct
.control
op
print v(aout)
.endc
.end
